US06500817B1
2-Chloro-N,4-dimethyl-1,3-thiazole-5-sulphonamide
177 ml of a solution of methylamine in methanol (2 M, 0.354 mol) are added at 0° C. to a solution of 41 g (0.177 mol) of 2-chloro-4-methyl-1,3-thiazole-5-sulphonyl chloride in 360 ml of dichloromethane. The mixture is stirred at 0° C. for 30 min, 1.8 l of water are added, and the mixture is extracted 5 times with 400 ml of dichloromethane each time. The combined organic phases are dried over sodium sulphate, and the solvent is distilled off. 39.93 g of an oil, which solidifies on standing, are obtained (Rf=0.43 (toluene/ethyl acetate=2/1), yield 99.7%)

reactant | methylamine | CN | CH5N
reactant | methanol | 0.354 mol, 2 M | CO | CH4O
reactant | 2-chloro-4-methyl-1,3-thiazole-5-sulphonyl chloride | 0.177 mol, 41 g | ClC=1SC(=C(N1)C)S(=O)(=O)Cl | C4H3Cl2NO2S2
reactant | water | 1.8 l | O | H2O
solvent | dichloromethane | 360 ml | ClCCl | CH2Cl2
product | 2-Chloro-N,4-dimethyl-1,3-thiazole-5-sulphonamide | yield 99.7% | ClC=1SC(=C(N1)C)S(=O)(=O)NC | C5H7ClN2O2S2
